US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(3-cyano-2-methylisothioureido)propylthio]pyrimidine (0.2 g.), methanol (2 ml.) and ethanolamine (0.5 ml.) was stirred at room temperature for 3 days and then evaporated to dryness. Water was added to the residue, the mixture extracted with ethyl acetate and the ethyl acetate extract dried and evaporated to dryness. The residue was recrystallised from acetonitrile to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-cyano-3-[2-hydroxyethyl]guanidino)propylthio]pyrimidine (0.1 g.), m.p. 114°-116°.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-[3-(3-cyano-2-methylisothioureido)propylthio]pyrimidine | 0.2 g | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(SC)=NC#N)N)(F)F | C13H17F3N8S2
reactant | ethanolamine | 0.5 ml | C(O)CN | C2H7NO
solvent | methanol | 2 ml | CO | CH4O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[3-(2-cyano-3-[2-hydroxyethyl]guanidino)propylthio]pyrimidine | 0.1 g | FC(CN=C(NC1=NC(=NC=C1)SCCCNC(=NC#N)NCCO)N)(F)F | C14H20F3N9OS
